US05212320
A mixture of indole (11.7 g), ethyl 4-bromobutyrate (58.5 g) and potassium carbonate (41.5 g) in N,N-dimethylformamide (500 ml) was heated at 50° C. for 10 hours. The mixture was filtered and the filtrate was poured into a mixture of ethyl acetate and ice water. The organic layer was separated, washed with water, and dried over magnesium sulfate. After evaporation of the solvent, the residue was chromatographed on silica gel (1 kg) eluting with a mixture of methanol, chloroform and hexane (1:50:50) to give ethyl 4-(1-indolyl)butyrate (2.86 g) as a blue oil.

reactant | indole | 11.7 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | ethyl 4-bromobutyrate | 58.5 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 41.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | ethyl 4-(1-indolyl)butyrate | 2.86 g | N1(C=CC2=CC=CC=C12)CCCC(=O)OCC | C14H17NO2
